US08648208B2
(2) Methyl 3-[4-[3-[3-methyl-6-(trifluoromethyl)benzothiophen-2-yl]propionyl]-2-methylphenyl]propionate
Methyl 3-[4-[3-[3-methyl-6-(trifluoromethyl)benzothiophen-2-yl]propenoyl]-2-methylphenyl]acrylate (85 mg, 0.19 mmol) was hydrogenated in MeOH (1 mL)/THF (1 mL) for 1 hour at room temperature using 10% palladium-carbon (17 mg) as a catalyst. After removal of the catalyst by filtration, the filtrate was concentrated to dryness. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1), to give the titled compound as a pale yellow crystal (38 mg, yield 44%).

reactant | Methyl 3-[4-[3-[3-methyl-6-(trifluoromethyl)benzothiophen-2-yl]propenoyl]-2-methylphenyl]acrylate | 0.19 mmol, 85 mg | CC1=C(SC2=C1C=CC(=C2)C(F)(F)F)C=CC(=O)C2=CC(=C(C=C2)C=CC(=O)OC)C | C24H19F3O3S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | palladium-carbon | 17 mg | [C].[Pd]
product | Methyl 3-[4-[3-[3-methyl-6-(trifluoromethyl)benzothiophen-2-yl]propionyl]-2-methylphenyl]propionate | 38 mg, yield 44% | CC1=C(SC2=C1C=CC(=C2)C(F)(F)F)CCC(=O)C2=CC(=C(C=C2)CCC(=O)OC)C | C24H23F3O3S
